US05677465
Synthesis of α-(1-imidazolyl)-2-(1-phenylpropyloxy)benzaldehyde O-methyloxime
Thriphenylphosphine (1.05 g), 1-phenylpropyl alcohol 0.54 g) and THF (20 ml) were added to 2-hydroxy-α-(1-imidazolyl)benzaldehyde O-methyloxime (0.43 g), and diethyl azodicarboxylate (0.70 g) was added under ice-cooling over 10 minutes. then the mixture was stirred at room temperature for 2 hours. After completion of the reaction, ether (100 ml) was added, the mixture was washed with water (80 ml) twice, and the ether layer was concentrated under reduced pressure. the resulting crude product was purified by silica gel chromatography to α-(1-imidazolyl)-2-(1-phenylpropyloxy)benzaldehyde O-methyloxime (0.63 g) as a colorless oil.

reactant | 1-phenylpropyl alcohol | 0.54 g | C1(=CC=CC=C1)C(CC)O | C9H12O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | 2-hydroxy-α-(1-imidazolyl)benzaldehyde O-methyloxime | 0.43 g | CON=C(C1=C(C=CC=C1)O)N1C=NC=C1 | C11H11N3O2
reactant | diethyl azodicarboxylate | 0.70 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | ether | 100 ml | CCOCC | C4H10O
product | α-(1-imidazolyl)-2-(1-phenylpropyloxy)benzaldehyde O-methyloxime | CON=C(C1=C(C=CC=C1)OC(CC)C1=CC=CC=C1)N1C=NC=C1 | C20H21N3O2
